US04605785
1-(3-Trifluoromethylphenyl)-1-[4-(diethylcarbamoylmethoxy)-phenyl]-propan-1-ol
14.8 g. 1-(3-trifluoromethylphenyl)-1-(4-hydroxyphenyl)-propan-1-ol, 7.6 g. of anhydrous potassium carbonate, 2 g. of potassium iodide, 8.2 g. of monochloroacetic acid diethylamide and 150 ml. of dry acetone are boiled for 5 hours, under stirring. The reaction mixture is cooled and the solvent is distilled off under reduced pressure. To the residue water is added and it is extracted with benzene. The benzene phase is shaken with water and subsequently a 5% aqueous sodium hydroxide solution and washed to neutral with water. It is dried over anhydrous sodium sulfate, filtered off and the solution is evaporated in vacuo. The solid residue is crystallized from a mixture of n-hexane and ethyl acetate. 17.6 g. of the named compound are obtained, melting at 83°-84° C.

reactant | 1-(3-trifluoromethylphenyl)-1-(4-hydroxyphenyl)-propan-1-ol | FC(C=1C=C(C=CC1)C(CC)(O)C1=CC=C(C=C1)O)(F)F | C16H15F3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | monochloroacetic acid diethylamide | C(C)N(C(CCl)=O)CC | C6H12ClNO
solvent | acetone | CC(=O)C | C3H6O
product | 1-(3-Trifluoromethylphenyl)-1-[4-(diethylcarbamoylmethoxy)-phenyl]-propan-1-ol | FC(C=1C=C(C=CC1)C(CC)(O)C1=CC=C(C=C1)OCC(N(CC)CC)=O)(F)F | C22H26F3NO3
